Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"Depressed mood and suicidality."
 
Major Surgical or Invasive Procedure:
none.

 
History of Present Illness:
___ yo man with no clear psychiatric history who was brought to 
the ED by his mother for her concerns about his depressed mood 
and suicidality. He states that he "just didn't care what 
happened" last week and was feeling "depressed". He states in 
that context, he walked into a clothes store and "just took some
stuff, I knew I would be caught, and I did it because I didn't 
care what happened to me". He states he was arrested, booked but 
released after he posted bail and has a court date "coming up, I 
forget exactly when". He asks that we call his probation officer 
as he feels this could help his situation. He states that he did 
not care if he lived or died, so started drinking vodka over the 
weekend, thinking "whatever happens, happens". He states he "may 
have said I was suicidal, I really can't remember" but does 
state he is depressed over his life circumstances and feels 
worthless. He is not eating or sleeping well (this weekend) and 
feels unmotivated. He denies active intention to end his life 
though cannot explain why he tried to jump out of a moving 
vehicle this weekend. 

His mother is quite concerned about him, reporting that he had 
been making suicidal statements and appeared dejected.  Also, 
the patient states he pled to assault and battery charges after 
he had an argument with his old girlfriend about a year ago then 
stole her car. He states that he didn't even have a license plus 
hit another car (no people) then fled the scene. He admits
to yelling and some pushing with his old girlfriend, thus the 
domestic violence charges. He states he served 6 months at 
___ then was released on probation. We tried calling his 
probation officer ___, at his request but she is not in today.
 
Past Medical History:
Past Psych Hx

Pt has no formal diagnosis or inpatient stays but mom and pt 
endorse depression, anxiety for "many years". no treaters, no 
med trials.  pt reports prior SA in ___ when he crashed his car 
intentionally while Etoh and says he wanted to die at that time. 
has multiple prior A/B charges, shoplifting he says when asked 
about aggressive behavior.

PMH: None.

 
Social History:
___
Family History:
No family psychiatric history, but reports that his mother has 
difficulty controlling her anger also and has frequent 
outbursts.
 
Physical Exam:
VS-98 87 126/70 18 100
MENTAL STATUS EXAM (USE FULL, DESCRIPTIVE SENTENCES WHERE
APPLICABLE)
     APPEARANCE & FACIAL EXPRESSION: seated, occasionally rising
and asking to call mom
     POSTURE: seated on bed, anxious
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS): anxious, moving 
legs
up and down on occasion. no signs etoh withdrawal
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE): cooperative
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC, 
ETC.):
slowed, nonpressured. not intoxiated at time of this exam, no
slurring
     MOOD: "depressed and anxious"
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.):
anxious, blunted, dysphoric.
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.):linear
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.):denies delusions, AVH. mentions some people may
try to harm him who have threatened him in prison but no 
evidence
of paranoia
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS):denies AVH
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF SLEEP,      

APPETITE, ENERGY, LIBIDO):see HPI
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT,
PLAN):denies on this exam but per mother has made several
suicidal statements, "I want to die, I am going to kill myself"
even when sober this week and tried to jump out of a moving car
on ___. has "angry thoughts at times" not at any particular
person but denies HI or wanting to kill these people.
     INSIGHT AND JUDGMENT:limited/limited
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT):aax03
          ORIENTATION:see above
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.):dowb
          MEMORY (SHORT- AND ___
          CALCULATIONS:intact
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE):limited
          PROVERB INTERPRETATION: don't know
          SIMILARITIES/ANALOGIES:apple/orange- fruit

 
Pertinent Results:
___ 06:15PM   PLT COUNT-285
___ 06:15PM   NEUTS-71.5* ___ MONOS-2.6 EOS-0.3 
BASOS-0.2
___ 06:15PM   WBC-13.7* RBC-5.18 HGB-13.9* HCT-40.7 MCV-78* 
MCH-26.8* MCHC-34.2 RDW-13.4
___ 06:15PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:15PM   ALT(SGPT)-28 AST(SGOT)-47* ALK PHOS-93 TOT 
BILI-0.6
___ 06:15PM   GLUCOSE-120* UREA N-16 CREAT-0.9 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-28 ANION GAP-16
___ 04:20AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
 
Brief Hospital Course:
1. SI/HI:
--as of ___, plan for short hospital stay with day hospital 
transition for ___ weeks.  No expressed SI today, however, he 
did not even admit to it in the ED (by mother's report 
entirely).  His main concern is in controlling his anger, and 
for this he wants to begin Abilify.  Continued attention must be 
paid to his motivations in wanting therapy and whether any 
secondary gain is behind it.
--as of ___, plan for possible discharge tomorrow with 
outpatient psychiatry appointments; he seems to want to 
attribute a lot of his difficulties controlling his anger to 
medical pathologies (manic-depressive, unipolar depression, 
etc.) and is
hoping that they will be a quick fix for his problems.
--on day of discharge, expressing future-oriented thoughts such 
as continuing work at his ___ agency and looking for a more 
permanent job (one opportunity is at ___.  At meeting with 
___ yesterday, his mother decided that she would no 
longer allow him to live with her and ___ is planning 
either to live in the ___ system (difficult because they 
hold lottery at 4:30 p.m. when he would be at work), at friends' 
places, or on the streets.

2. Mood:
--as of ___, mood is good although he expresses much concern 
over his inability to "control himself."
--as of ___ in the morning before meeting, mood is fine 
although continues to feel lack of control.
--on day of discharge, mood is "good"-- he is eager to leave, to 
begin work again to save up money, and to find somewhere to 
live.

3. Medications:
--as of ___, Abilify 10mg po qd begun, tolerated well w/o 
side effects.
--as of ___, Abilify 10mg continued with Quetiapine 25mg prn 
for agitation.
--on day of discharge, Abilify was increased to 15 mg once a 
day.

4. Risk and Safety Assessment:
--as of ___, no expressed SI/HI.  Interacting genially with 
other residents and taking part in groups.
--as of ___ AM, no expressed SI/HI. 
--on day of discharge, no expressions of SI/HI or angry/violent 
thoughts.  

5. Legal/Checks:
--CV, q15 min checks

6. Disposition: 
--He will likely be discharged to stay with friends, in the 
___ system, or with his mother if she will take him.  
He plans to save up enough money over the next month to begin 
renting a place on his own.  He will have follow-up appointment 
with psychopharmacologist at ___ in ___.

 
Medications on Admission:
None.
 
Discharge Medications:
1. Aripiprazole 15 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: 
Mood disorder not otherwise specified
rule out adjustment disorder with behavioral disturbance
alcohol dependence
Axis II: mixed cluster B traits, including antisocial, 
narcissistic
Axis III: None
Axis IV: moderately severe psychosocial stressors identified
Axis V: GAF upon discharge: ___
 
Discharge Condition:
MENTAL STATUS EXAM:
--appearance: good grooming with good eye contact
--behavior/attitude: cooperative; exhibited no PMR, PMA
--speech: normal rate and tone 
--mood (in patient's words): “ready” 
--affect: full affect; appropriate to the context
--thought content (describe): hopeful cognitions without 
preoccupations, obsessions, delusions 
--thought process: linear 
--perception: without AH, VH, delusions, paranoia
--SI/HI: without SI or intent, plan; no HI; verbalized safety 
plan outside of hospital, expressed future-oriented thoughts
--insight: fair 
--judgment: fair 

ABBREVIATED COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: grossly intact
--memory (ball, chair, purple): immediate intact and remote 
intact
--language: grossly intact
--fund of knowledge: grossly intact

Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
Please call your providers, dial 911, or go to your nearest 
emergency room if the concerns that brought you to the hospital 
return or worsen, if you feel unsafe in any way, if SI/HI 
emerges, or if you have any immediate concerns.
 
Followup Instructions:
___